US06664272B2
1,5-Bis-(2,3-difluorophenyl)-penta-1,4-dien-3-one
To a solution of 0.5 g (8.61 mmol) of acetone and 2.51 g (17.65 mmol) of 2,3-difluoro benzaldehyde in 86 mL of a 0.25M solution of aqueous NaOH (21.52 mmol) was added 1.13 mL (0.86 mmol) of a 25% w/w aqueous solution of cetyltrimethylammonium chloride. The mixture was allowed to stir vigorously at room temperature for 48 hours, at which point it was diluted with 100 ml of brine and extracted with two 75 mL portions of methylene chloride. The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was recrystallized from ethyl acetate to provide 110 mg (4%) of a yellow powder.

reactant | acetone | 8.61 mmol, 0.5 g | CC(=O)C | C3H6O
reactant | 2,3-difluoro benzaldehyde | 17.65 mmol, 2.51 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | NaOH | 21.52 mmol | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 1,5-Bis-(2,3-difluorophenyl)-penta-1,4-dien-3-one | 110 mg, 4% | FC1=C(C=CC=C1F)C=CC(C=CC1=C(C(=CC=C1)F)F)=O | C17H10F4O
